*
*       _/_/_/_/_/_/                          
*     _/       _/                             
*      _/_/   _/          STMicroelectronics  
*         _/ _/                               
*   _/_/_/  _/                                
*   www.st.com                                
*                                             
* 
*****************************************************
*     Model Generated by STmicroelectronics         *
*             All Rights Reserved       	    *
*      Commercial Use or Resale Restricted          *
*****************************************************
* CREATION DATES: 23-03-2006                        *
*                                                   *
* COMPLEMENTARY POWER MOSFET Model (level 3)        *
*                                                   *
* EXTERNAL PINS DESCRIPTION:                        *
*                                                   *
* PIN 1 -> Drain                                    *
* PIN 2 -> Gate                                     *
* PIN 3 -> Source                                   *
*                                                   *
*                    *********                      *
*            **********************                 *
*     ***************************************       *
*  PARAMETER MODELS EXTRACTED FROM MEASURED DATA    *
*              <<<<<<<<<<<>>>>>>>>>>>               *
*     ***************************************       *
*   THIS MODEL CAN BE USED AT TEMPERATURE: 25 °C    *
*                                                   *
*****************************************************         

* MODELLING FOR STS8C5H30L

.SUBCKT CHANN 1 2 3
LGN 2 4  7.5n
LSN 12 3 7.5n
LDN 6 1  4.5n
RGN 4 5  4.389
RSN 9 12 0.959E-02
RDN 7 6  0.194E-02
RJN 8 7  0.154E-03
CGSN 5 9   0.963E-09
CGDN 7 10  0.834E-09
CKN  11 7  0.316E-10
DGDN 11 7 DGDN
DBSN 12 6 DBSN
DBDN  9 7 DBDN
MOSN  13 5 9 9 MOSN L=1u W=1u
E1N  10 5 101 0 1
E2N  11 5 102 0 1
E3N  8 13 POLY(2) 6 8 6 12 0 0 0 0  4.483
G1N  0 100 7 5 1u
D1N  100 101  DIDN
D2N  102 100  DIDN
R1N  101 0  1MEG
R2N  102 0  1MEG
.ENDS CHANN
 
.MODEL MOSN NMOS
+ LEVEL = 3
+ VTO   = 2.199
+ PHI   = 0.892
+ IS    = 0.1E-12
+ JS    = 0
+ THETA = 0.358
+ KP    = 41.117
+ ETA   = 0.281E-02
 
.MODEL DGDN D
+ IS    = 0.1E-12
+ CJO   = 0.491E-10
+ VJ    = 0.611
+ M     = 0.345
.MODEL DBDN D
+ IS    = 0.1E-12
+ CJO   = 0.263E-10
+ VJ    = 0.766
+ M     = 0.332
.MODEL DBSN D
+ IS    = 0.1E-12
+ BV    = 36
+ N     = 1
+ TT    = 0.152E-07
+ RS    = 0.797E-02
.MODEL DIDN D
+ IS    = 0.01E-12
+ RS    = 0
+ BV    = 46
 
.SUBCKT CHANP 1 2 3
LGP 2 4  7.5n
LSP 12 3 7.5n
LDP 6 1  4.5n
RGP 4 5  3
RSP 9 12 0.997E-03
RDP 7 6  0.336E-01
RJP 8 7  0.159E-03
CGSP 5 9   0.152E-08
CGDP 7 10  0.722E-09
CKP  11 7  0.491E-10
DGDP 7 11 DGDP
DBSP 6 12 DBSP
DBDP  7 9 DBDP
MOSP  13 5 9 9 MOSP L=1u W=1u
E1P  10 5 101 0 1
E2P  11 5 102 0 1
E3P  13 8 POLY(2) 6 8 6 12 0 0 0 0  0.181
G1P  100 0 5 7 1u
D1P  101 100  DIDP
D2P  100 102  DIDP
R1P  101 0  1MEG
R2P  102 0  1MEG
.ENDS CHANP
 
.MODEL MOSP PMOS
+ LEVEL = 3
+ VTO   = -2.56
+ PHI   = 0.933
+ IS    = 0.1P
+ JS    = 0
+ THETA = 0.797
+ KP    = 29.901
+ eta   = 0.822E-02

.MODEL DGDP D
+ IS    = 0.1P
+ CJO   = 0.241E-10
+ VJ    = 0.751
+ M     = 0.334
.MODEL DBDP D
+ IS    = 0.1P
+ CJO   = 0.492E-13
+ VJ    = 0.895
+ M     = 0.348
.MODEL DBSP D
+ IS    = 0.1P
+ BV    = 34
+ N     = 1
+ TT    = 0.647E-07
+ RS    = 0.303E-01
.MODEL DIDP D
+ IS    = 0.01P
+ RS    = 0
+ BV    = 43
 
* END OF MODELLING

